US08975254B2
(R)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-5-methylisoxazole-3-carboxamide
The title compound was prepared using the method of Example 34(d) starting from (R)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (240 mg, 0.921 mmol) and 5-methylisoxazole-3-carboxylic acid (140 mg, 1.105 mmol). The product was purified with flash-chromatography. Yield 46 mg (13%). 1H-NMR (400 MHz; d6-DMSO): δ 1.15 (d, 3H), 4.28-4.35 (m, 2H), 4.40-4.50 (m, 1H), 6.45 (d, 1H), 6.93 (d, 1H), 7.81 (d, 1H), 7.91-7.93 (m, 1H), 7.98 (d, 1H), 8.07 (d, 1H), 8.71 (d, 1H).

reactant | (R)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 0.921 mmol, 240 mg | N[C@@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
reactant | 5-methylisoxazole-3-carboxylic acid | 1.105 mmol, 140 mg | CC1=CC(=NO1)C(=O)O | C5H5NO3
product | (R)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-5-methylisoxazole-3-carboxamide | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@@H](C)NC(=O)C1=NOC(=C1)C | C18H16ClN5O2
